US08530468B2
5-(8-(2-Hydroxyethylamino)isoquinolin-3-ylamino)pyrazine-2-carbonitrile (AA-031)
A mixture of tris(dibenzylideneacetone)dipalladium (0) (18 mg, 0.020 mmol) and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (23 mg, 0.040 mmol) in toluene (1 mL) and DMF (1 mL) was degassed under a stream of nitrogen gas with stirring for 15 minutes. 5-(8-Bromoisoquinolin-3-ylamino)pyrazine-2-carbonitrile (65 mg, 0.20 mmol), ethanolamine (61 mg, 1.00 mmol) and caesium carbonate (130 mg, 0.40 mmol) were added and the mixture was degassed for a further 5 minutes, then heated at 140° C. for 40 minutes in a microwave reactor. Upon cooling the reaction mixture was partitioned between ethyl acetate and aqueous sodium hydrogen carbonate (2.5%) and filtered through celite. The aqueous phase was re-extracted with ethyl acetate and then the combined organic phases were washed sequentially with aqueous sodium hydrogencarbonate and brine. The organic phase was dried (Na2SO4) and passed sequentially through two PS-Thiol cartridges and concentrated to dryness. Preparative HPLC gave the title compound (8.14 mg, 0.034 mmol, 17%). 1H NMR (d6-DMSO, 400 MHz) δ 10.94 (br s, 1H), 9.41 (s, 1H), 8.80 (s, 1H), 8.70 (s, 1H), 8.29 (s, 1H), 7.43-7.46 (m, 1H), 6.98 (d, 1H, J=8.4 Hz), 6.70 (br t, 1H), 6.50 (d, 1H, J=7.6 Hz), 4.82 (t, 1H, J=5.8 Hz), 3.65-3.70 (m, 2H), 3.25-3.30 (m, 2H, partially obscured by water signal). LC-MS (2) Rt=2.27 min; m/z (ESI+) 308 (M+H).

reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.040 mmol, 23 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 5-(8-Bromoisoquinolin-3-ylamino)pyrazine-2-carbonitrile | 0.20 mmol, 65 mg | BrC=1C=CC=C2C=C(N=CC12)NC=1N=CC(=NC1)C#N | C14H8BrN5
reactant | ethanolamine | 1.00 mmol, 61 mg | C(O)CN | C2H7NO
reactant | caesium carbonate | 0.40 mmol, 130 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium | 0.020 mmol, 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(8-(2-Hydroxyethylamino)isoquinolin-3-ylamino)pyrazine-2-carbonitrile | 0.034 mmol, 8.14 mg, 17% | OCCNC=1C=CC=C2C=C(N=CC12)NC=1N=CC(=NC1)C#N | C16H14N6O
